US05175344
1.0 g of E-2-amino-5-phosphino-3-pentenoic acid is suspended in 20 ml of ethanol and the suspension is saturated with hydrogen chloride gas for 2 hours at 65°. After concentration, the residue is dissolved in 10 ml of ethanol, 10 ml of propylene oxide are added and the precipitate is filtered off. Recrystallisation from water/acetone 1:1 yields E-2-amino-5-phosphino-3-pentenoic acid ethyl ester, m.p. 172°-173°.

reactant | E-2-amino-5-phosphino-3-pentenoic acid | 1.0 g | NC(C(=O)O)\C=C\CP | C5H10NO2P
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | E-2-amino-5-phosphino-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C\CP)N)=O | C7H14NO2P
